US05095014
3-[2-Chloro-5-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride
A mixture of 13.5 g (0.14 mol) of phosgene and 19.4 g (0.14 mol) of potassium carbonate in 300 mL of methylene chloride was stirred under nitrogen while cooling in an ice bath. The cold reaction mixture was treated with a solution of 47.6 g (0.114 mol) of 3-[2-chloro-5-(trifluoromethyl)phenoxy]-1-(diphenylmethyl)azetidine in 100 mL of methylene chloride added dropwise. After stirring for 16 hr as the reaction mixture warmed to ambient temperature, it was again cooled in an ice bath while small pieces of ice were added to destroy the excess phosgene. The methylene chloride solution was decanted from the inorganic salt paste, dried by filtering through Whatman PS paper and concentrated in vacuo (58 g). The residue was triturated with 600 mL (3×200 mL) of petroleum ether, decanting the petroleum ether each time. The residue was then triturated with boiling hexanes and allowed to cool. The insoluble oil was separated using a separating funnel yielding 24 g of oily product (67%). A sample was distilled in a Kugelrohr apparatus (136°-150° C. @ 2 mm Hg) yielding a clear oil which slowly solidified on standing, mp 40°-45°.

reactant | phosgene | 0.14 mol, 13.5 g | C(=O)(Cl)Cl | CCl2O
reactant | potassium carbonate | 0.14 mol, 19.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-[2-chloro-5-(trifluoromethyl)phenoxy]-1-(diphenylmethyl)azetidine | 0.114 mol, 47.6 g | ClC1=C(OC2CN(C2)C(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C=C1)C(F)(F)F | C23H19ClF3NO
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-[2-Chloro-5-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride | 24 g, 67% | ClC1=C(OC2CN(C2)C(=O)Cl)C=C(C=C1)C(F)(F)F | C11H8Cl2F3NO2
